US06114334
1M Aqueous sodium hydroxide solution (175 ml) was added over 10 minutes to a stirred suspension of 4-allyl-1-nicotinoylsemicarbazide (17.2 g) in water (100 ml), then the stirred mixture was heated at 90-95° C. for 17 hours, cooled to ambient temperature, and acidified to pH 5 by the addition of 5M hydrochloric acid. The mixture was concentrated in vacuo, and the resulting solid was collected by filtration and dried in vacuo at ambient temperature to give 4-allyl-5-(3-pyridyl)-1,2,4-triazol-3(2H,4H)-one as an off-white solid (14 g), m.p. 120-125° C.

reactant | sodium hydroxide | 1M, 175 ml | [OH-].[Na+]
reactant | 4-allyl-1-nicotinoylsemicarbazide | 17.2 g | C(C=C)NC(NNC(C1=CN=CC=C1)=O)=O | C10H12N4O2
reactant | hydrochloric acid | 5M | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 4-allyl-5-(3-pyridyl)-1,2,4-triazol-3(2H,4H)-one | 14 g | C(C=C)N1C(NN=C1C=1C=NC=CC1)=O | C10H10N4O
